US07384970B2
(S)—N-{3-Cyclohexyl-1-[2-(5-methoxy-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide.
Following the procedures of Example 3, except using m-anisoyl chloride, (S)-2-amino-4-cyclohexyl-butyric acid, ethanolamine and 5-methoxyindoline as starting materials, the title compound was prepared in 20% yield. The final material was purified by reverse phase preparative HPLC using TFA as a modifier. The final compound is therefore a partial TFA salt and the properties are reported for the material as it appeared after solvent removal: 1H NMR (CDCl3, 400 MHz) δ 0.58-0.72 (m, 2H), 0.85-1.10 (m, 6H), 1.37-1.59 (m, 6H), 1.62-1.73 (m, 1H), 2.54-2.67 (m, 2H), 2.85-2.98 (m, 2H), 3.20-3.33 (m, 2H), 3.41 (s, 3H), 3.55-3.70 (m, 2H), 3.64 (s, 3H), 4.34 (dd, 1H, J1=7.1, J2=13.9), 6.72-6.78 (m, 2H), 6.84-6.90 (m, 2H), 7.06-7.19 (m, 5H); HPLC-MS calcd. for C29H39N3O4 (M+H+) 494.3, found 494.5.

reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | (S)-2-amino-4-cyclohexyl-butyric acid | N[C@H](C(=O)O)CCC1CCCCC1 | C10H19NO2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 5-methoxyindoline | COC=1C=C2CCNC2=CC1 | C9H11NO
product | (S)—N-{3-Cyclohexyl-1-[2-(5-methoxy-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide | 20% yield | C1(CCCCC1)CC[C@@H](C(NCCN1CCC2=CC(=CC=C12)OC)=O)NC(C1=CC(=CC=C1)OC)=O | C29H39N3O4
